US07713994B2
(4E)-4-(Methoxymethylene)-6-(1H-pyrrol-1-yl)isoquinoline-1,3(2H,4H)-dione
6-(1H-pyrrol-1-yl)isoquinoline-1,3(2H,4H)-dione (0.1 g, 0.442 mmol) is dissolved in acetic anhydride (0.6 mL), N,N-dimethylformamide (0.15 mL) and trimethyl orthoformate (0.1 mL, 0.919 mmol). After heating at 120° C. for 0.5 h, it is cooled and the solid is filtered and washed successively with acetic anhydride, ether and hexane to yield 47 mg (40%) solid of the title compound; mp 272-273° C.; HRMS (ESI) m/z calcd for C15H12N2O3 269.09207. found 269.09210 (M+H)+1.

reactant | 6-(1H-pyrrol-1-yl)isoquinoline-1,3(2H,4H)-dione | 0.442 mmol, 0.1 g | N1(C=CC=C1)C=1C=C2CC(NC(C2=CC1)=O)=O | C13H10N2O2
reactant | N,N-dimethylformamide | 0.15 mL | CN(C=O)C | C3H7NO
reactant | trimethyl orthoformate | 0.919 mmol, 0.1 mL | C(OC)(OC)OC | C4H10O3
solvent | acetic anhydride | 0.6 mL | C(C)(=O)OC(C)=O | C4H6O3
product | (4E)-4-(Methoxymethylene)-6-(1H-pyrrol-1-yl)isoquinoline-1,3(2H,4H)-dione | 47 mg, 40% | CO\C=C/1\C(NC(C2=CC=C(C=C12)N1C=CC=C1)=O)=O | C15H12N2O3
